US05229381
t-Butyl 4-hydroxy-phenylacetate
A solution of H2SO4 (5 ml) in dioxane (80 ml) was added to 4-hydroxyphenylacetic acid (20 gm, 0.13 mol) in a pressure bottle. Isobutylene (250 ml) was added and the bottle was sealed and the mixture was stirred for 24 hr. The reaction mixture was poured into saturated NaHCO3 solution and extracted with EtOAc. The combined organic extracts were washed successively with saturated NaHCO3, H2O (twice) and brine before being dried over Na2SO4 and evaporated to dryness. Crystals formed after standing overnight and they were filtered, washed with cold hexane and dried to give 20.99 gm of the title compound. M.pt. 95°-96° C.

reactant | H2SO4 | 5 ml | OS(=O)(=O)O | H2O4S
reactant | 4-hydroxyphenylacetic acid | 0.13 mol, 20 gm | OC1=CC=C(C=C1)CC(=O)O | C8H8O3
reactant | Isobutylene | 250 ml | CC(C)=C | C4H8
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | dioxane | 80 ml | O1CCOCC1 | C4H8O2
product | t-Butyl 4-hydroxy-phenylacetate | 20.99 gm | OC1=CC=C(C=C1)CC(=O)OC(C)(C)C | C12H16O3
